Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Possible gallbladder mass, possible cholelithiasis.
 
Major Surgical or Invasive Procedure:
___: Lap cholecystectomy

 
History of Present Illness:
___ man who has had a prior kidney transplant.  He is 
known to have a mass in the fundus of the gallbladder, which has 
been followed for some
time and is growing and hyperemic.  He now presents for removal.
 
Social History:
___
Family History:
no family history of liver or kidney disease
 
Brief Hospital Course:
___ y/o male with ___ ESRD s/p renal transplant now with 
irregular gall bladder lesion and thickening of the gall bladder 
wall. He was seen by Dr. ___ surgical planning and now 
presents for planned laparoscoopic cholecystectomy.
.
He was taken to the OR with Dr. ___ for laparoscopic 
cholecystectomy. The surgery was without complication. By POD 1 
he was tolerating a regular diet and he was feeling well enough 
to be discharged to home.
Kidney function was at baseline.  
.
Home immunosuppression of Tacro (Once a day Astragraf, 
Mycophenolate and prednisone were continued at home doses) A 
level was not obtained on this admission.
.
Of note a surgical follow up has been arranged and his 
outpatient transplant clinic appointment with Dr. ___ was 
moved about to ___. Patient is aware 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. bisoprolol fumarate 1.25 mg oral QHS 
2. Cinacalcet 30 mg PO DAILY 
3. Famotidine 40 mg PO DAILY 
4. Mycophenolate Mofetil 500 mg PO BID 
5. PredniSONE 5 mg PO DAILY 
6. Tacrolimus 2 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 4000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H 
Maximum 4 of the 500 mg tablets daily  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
No driving if taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
Disp #*10 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
Restart ___.  bisoprolol fumarate 1.25 mg oral QHS 
___ of 5 mg tablet  
5.  Cinacalcet 30 mg PO DAILY  
6.  Famotidine 40 mg PO DAILY  
7.  Mycophenolate Mofetil 500 mg PO BID  
8.  PredniSONE 5 mg PO DAILY  
9.  Tacrolimus 2 mg PO DAILY  
10.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic cholecystitis with cholelithiasis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, worsening yellowing of the 
skin or eyes, itching, inability to tolerate food, fluids or 
medications, or any other concerning symptoms.
.
No lifting more than 10 pounds for 6 weeks following surgery to 
avoid hernia formation.
.
No driving if taking narcotic pain medication
.
You may shower. Allow the water to run over the incision and pat 
area dry. No lotion or powder near the incision.
.
Please get your outpatient labs to follow kidney function and 
tacro level as you have been advised by your transplant team.
.
You may use warm packs to your shoulders for the referred pain
 
Followup Instructions:
___